US05110820
In 20 ml of ethanol were dissolved 1.8 g of 2-(2-aminoethoxy)ethyl methyl 2,6-dimethyl-4-(m-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylate and 0.64 g of glycidyl phenyl ether, and the solution was stirred at room temperature for 20 hours. The reaction solution was concentrated under reduced pressure and the residue was subjected to silica gel column chromatography. The product was eluted with chloroform-methanol (95:5 v/v), and 0.87 g of 2-[2-(2-hydroxy-3-phenoxypropylamino)ethoxy]ethyl methyl 2,6-dimethyl-4-(m-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylate was obtained. The product was treated with an ethanol solution of hydrochloric acid to provide 0.8 g of hydrochloric acid salt as amorphous powder.

reactant | 2-(2-aminoethoxy)ethyl methyl 2,6-dimethyl-4-(m-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylate | 1.8 g | CC=1NC(=C(C(C1C(=O)OCCOCCN)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC)C | C20H25N3O7
reactant | glycidyl phenyl ether | 0.64 g | C1(=CC=CC=C1)OCC1CO1 | C9H10O2
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-[2-(2-hydroxy-3-phenoxypropylamino)ethoxy]ethyl methyl 2,6-dimethyl-4-(m-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylate | 0.87 g | CC=1NC(=C(C(C1C(=O)OCCOCCNCC(COC1=CC=CC=C1)O)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC)C | C29H35N3O9
